US07754745B2
Step 3: 5-[(S)-3-(2-Bromo-5-fluoro-phenoxy)-pyrrolidin-1-yl]-[1,3,4]oxadiazole-2-carboxamide
A mixture of ethyl-5-[(3S)-3-(2-bromo-5-fluorophenoxy)pyrrolidin-1-yl]-1,3,4-oxadiazole-2-carboxylate (480 mg, 1.2 mmol) in THF (4 mL) was saturated with ammonia gas for 2 min. The mixture was stirred at room temperature for 0.5 h. The solvent was evaporated and the crude product was dissolved in Et2O, filtered and washed with Et2O to afford the title product as a solid.

reactant | ethyl-5-[(3S)-3-(2-bromo-5-fluorophenoxy)pyrrolidin-1-yl]-1,3,4-oxadiazole-2-carboxylate | 1.2 mmol, 480 mg | C(C)OC(=O)C=1OC(=NN1)N1C[C@H](CC1)OC1=C(C=CC(=C1)F)Br | C15H15BrFN3O4
reactant | ammonia | N | H3N
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 5-[(S)-3-(2-Bromo-5-fluoro-phenoxy)-pyrrolidin-1-yl]-[1,3,4]oxadiazole-2-carboxamide | BrC1=C(O[C@@H]2CN(CC2)C2=NN=C(O2)C(=O)N)C=C(C=C1)F | C13H12BrFN4O3
